data/mechanism_extracts/JACS/10.1021_jacs.0c08532.json
{"doi": "10.1021_jacs.0c08532", "journal": "JACS", "is_review": false, "rxn_class_summary": "electroreductive carbofunctionalization of radical-acceptor alkenes with alkyl bromides (carboformylation, anti-Markovnikov hydroalkylation, carbocarboxylation, and allylic alkylation) via a radical-polar crossover mechanism", "mechanism_family": ["radical_cathodic", "radical_polar_crossover", "sacrificial_anode", "anion_initiated"], "electrochemical_role": "cathodic reduction of alkyl bromide to alkyl radical (ECEC); cathode subsequently reduces the C-centered adduct radical to a benzylic carbanion; Mg sacrificial anode provides the counter oxidation", "key_intermediates": [{"name": "isopropyl radical (Int-3, from cathodic reduction of iPrBr at ~ -2.0 V)", "smiles": "[CH](C)C", "role": "reactive"}, {"name": "benzylic C-centered radical adduct (Int-1/Int-6) from radical addition to styrene", "smiles": null, "role": "transient"}, {"name": "benzylic carbanion (Int-2/Int-8) from second cathodic reduction at ~ -1.6 V", "smiles": null, "role": "reactive"}, {"name": "alkoxide/hemiaminal adduct from carbanion addition to DMF (formyl donor)", "smiles": null, "role": "transient"}, {"name": "β-alkoxy carbanion Int-9/Int-10 in allyl ether substrates undergoing E1cb β-elimination", "smiles": null, "role": "transient"}], "electron_flow": "Cathode reduces R-Br to R• (dissociative SET); R• adds to the radical-acceptor alkene in a polarity-matched fashion to give a benzylic radical; this radical is more easily reduced than the starting alkene, so a second cathodic SET produces a benzylic carbanion which is trapped by an external electrophile (DMF → CHO, MeCN/Et2NH → H, CO2 → CO2H, or undergoes E1cb on allyl ethers). The Mg anode is oxidized sacrificially.", "rate_determining_step": "cathodic dissociative single-electron reduction of the alkyl bromide to generate R•", "probe_reagents": [{"name": "iPrMgBr (preformed Grignard)", "smiles": "CC(C)[Mg]Br", "purpose": "intermediate_trap", "observation": "slow addition of iPrMgBr to styrene 7 in DMF/MeCN gave ≤2% of difunctionalization products, ruling out direct carbanion addition to styrene (Pathway B)"}, {"name": "tBuLi", "smiles": "CC(C)(C)[Li]", "purpose": "intermediate_trap", "observation": "same as above: no productive difunctionalization, disfavoring carbanion-to-alkene addition pathway"}, {"name": "enantioenriched chiral secondary alkyl bromide 130 (98% ee)", "smiles": null, "purpose": "other", "observation": "product 131 formed in 52% yield as 1.4:1 dr with both diastereomers fully racemic, consistent with a free alkyl radical intermediate and ruling out an SN2 pathway via alkene radical anion (Pathway C)"}, {"name": "cyclopropane radical clock (vinylcyclopropane 132)", "smiles": null, "purpose": "radical_clock", "observation": "ring-opened product 133 obtained in 66% with E/Z > 20:1 as the only observable product, confirming a radical addition step"}, {"name": "no-electricity control / no-electricity + Mg powder", "smiles": null, "purpose": "other", "observation": "2-3% conversion with no product, demonstrating that the reaction requires electrochemistry and is not driven by Mg(0)"}, {"name": "divided cell experiment", "smiles": null, "purpose": "other", "observation": "yield drops from 89% to 45% with increased byproducts, indicating that Mg salts generated at the anode play a beneficial role"}, {"name": "Co(salen) mediator test", "smiles": null, "purpose": "redox_probe", "observation": "2 mol% Co(salen) did not improve the reaction (55% vs 71%), suggesting direct electron transfer to iPrBr is operative rather than mediated SET"}], "evidence_types_used": ["radical_clock", "stoichiometric_intermediate", "on/off_light_or_current", "cyclic_voltammetry", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Authors explicitly compare three mechanisms: Pathway A (ECEC radical-polar crossover initiated by alkyl halide reduction, favored), Pathway B (EEC: 2e- reduction of R-Br to R-, then carbanion adds to alkene; ruled out by Grignard/RLi control), and Pathway C (ECEC initiated by alkene radical anion reduction; ruled out by chiral alkyl bromide racemization). Reduction potentials (iPrBr ~ -2.0 V, styrene ~ -2.6 V, benzylic radical ~ -1.6 V vs SCE) are most consistent with Pathway A. The β-elimination side reactivity (E1cb) on allyl ether substrates was leveraged to discover a new allylic alkylation reaction. Standard conditions use LiOTf or TBAPF6 electrolyte, DMF solvent (also CHO source) or MeCN/Et2NH or CO2-saturated DMF, Mg sacrificial anode, graphite cathode, undivided cell, constant current 10 mA, 4 F/mol."}
